US09029536B2
D) 4-[1-(2,2-Difluoroethyl)-1H-pyrazolo[4,3-b]pyridin-3-yl]phenol
To a stirred mixture of 3-[4-(benzyloxy)phenyl]-1H-pyrazolo[4,3-b]pyridine (300 mg) and Cs2CO3 (649 mg) in DMF (4 ml) was added 2,2-difluoroethyl trifluoromethanesulfonate (234 mg) at 0° C. The mixture was stirred at room temperature for 12 h, treated with water, and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated under reduced pressure. The residue was dissolved in EtOH (8 mL) and 10% Pd—C (200 mg) was added. The mixture was stirred at room temperature for 30 min under H2 atmosphere, filtered and evaporated. The residue was purified by silica gel column chromatography (hexane/AcOEt) to give the title compound (142 mg).

reactant | 3-[4-(benzyloxy)phenyl]-1H-pyrazolo[4,3-b]pyridine | 300 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NNC=2C1=NC=CC2 | C19H15N3O
reactant | Cs2CO3 | 649 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2,2-difluoroethyl trifluoromethanesulfonate | 234 mg | FC(S(=O)(=O)OCC(F)F)(F)F | C3H3F5O3S
reactant | water | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 4-[1-(2,2-Difluoroethyl)-1H-pyrazolo[4,3-b]pyridin-3-yl]phenol | 142 mg | FC(CN1N=C(C2=NC=CC=C21)C2=CC=C(C=C2)O)F | C14H11F2N3O
